US07531545B2
Step E: 3-Amino-3-cyclohexyl-N-(3,3-dimethyl-butyl)-propionamide
In a Parr bottle 10% Pd/C (0.8 g) was cooled to −78° C., followed by addition of a solution of 3-[benzyl-(1-phenyl-ethyl)-amino]-3-cyclohexyl-N-(3,3-dimethyl-butyl)-propionamide (0.8 g, 1.78 mmol) in ethyl acetate (10 mL), ethanol (100 mL), and methanol (20 mL). The resulting mixture was subjected to hydrogen atmosphere and shaken for 3 h. The hydrogen was purged with nitrogen, the reaction mixture was filtered (glass fiber filter paper) and the solvent was evaporated under reduced pressure to yield a residue.

reactant | 3-[benzyl-(1-phenyl-ethyl)-amino]-3-cyclohexyl-N-(3,3-dimethyl-butyl)-propionamide | 1.78 mmol, 0.8 g | C(C1=CC=CC=C1)N(C(CC(=O)NCCC(C)(C)C)C1CCCCC1)C(C)C1=CC=CC=C1 | C30H44N2O
reactant | methanol | 20 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.8 g | [Pd] | Pd
product | 3-Amino-3-cyclohexyl-N-(3,3-dimethyl-butyl)-propionamide | NC(CC(=O)NCCC(C)(C)C)C1CCCCC1 | C15H30N2O
